US06323223B1
A 1.5 M solution of DIBAL-H™ in toluene (1.27 ml, 1.90 mmol) was added dropwise over 10 min. to a solution of ethyl 1-(3,4-dichlorobenzyl)isonipecotate (500 mg, 1.58 mmol) in toluene solution (5 ml) at −78° C. After 40 min., aqueous sodium bicarbonate solution was added and the reaction mixture was warmed to room temperature. The product was extracted into diethyl ether. The organic layer was dried over magnesium sulfate, filtered and concentrated to provide 1-(3,4-dichlorobenzyl)-4-formylpyridine (430 mg) as an oil.

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | ethyl 1-(3,4-dichlorobenzyl)isonipecotate | 1.58 mmol, 500 mg | ClC=1C=C(CN2CCC(C(=O)OCC)CC2)C=CC1Cl | C15H19Cl2NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.90 mmol, 1.27 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3,4-dichlorobenzyl)-4-formylpyridine | 430 mg | ClC=1C=C(CN2CC=C(C=C2)C=O)C=CC1Cl | C13H11Cl2NO
